US03998834
A mixture of 4.8 parts of 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]ethanone and 15 parts of propanoic acid, anhydride is stirred for 5 hours at 180° C (oil-bath). Stirring is continued overnight, while meantime the mixture is allowed to reach room temperature. The reaction mixture is poured onto ice-water and the whole is alkalized with a concentrated ammonium hydroxide solution. The product is extracted with benzene. The extract is washed twice with water, dried, filtered and evaporated in vacuo. The residue is dissolved in 1,1'-oxybisethane and the solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from 2-propanol, yielding N-[4-acetyl-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate; mp. 196.8° C.

reactant | 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]ethanone | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(C)=O | C21H26N2O
reactant | propanoic acid, anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-acetyl-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate | C(C(=O)O)(=O)O.C(C)(=O)C1(CCN(CC1)CCC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C24H30N2O2.C2H2O4/c1-3-23(28)26(22-12-8-5-9-13-22)24(20(2)27)15-18-25(19-16-24)17-14-21-10-6-4-7-11-21;3-1(4)2(5)6/h4-13H,3,14-19H2,1-2H3;(H,3,4)(H,5,6)
